US07652053B2
To a solution of cis-(S)-2-({4-[5-chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile (25 mg, 0.054 mmol) in methylene chloride (5 mL) was added triethylamine (11 mg, 0.108 mmol), acetyl chloride (5 mg, 0.063 mmol) and trace amount of 4-dimethylaminopyridine. The mixture was stirred at room temperature for 65 hours. The reaction mixture was diluted with dichloromethane and the solution was washed with saturated aqueous sodium bicarbonate solution followed by brine. The organic extract was dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue was subjected to column chromatography, eluting with dichloromethane and ethyl acetate in the presence of 4% methanol to give cis-(S)—N-{4-[5-chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexyl}-N-(5-cyano-indan-2-ylmethyl)-acetamide (15 mg). LC-MS showed a single peak, C29H33ClN4O2 (m/e) calcd 504.2292, obsd 505.3. 1H-NMR (CD3OD) □ 7.67 (br, 1H) 7.59 (s, 2H), 7.50 (d, 1H), 7.40 (d, 1H), 7.23 (d, 1H), 5.57 (m, 1H), 3.48 (br d, 2H), 3.15 (m, 2H), 2.97 (m, 1H), 2.84 (m, 2H), 2.59 (br, 2H), 2.32 (br, 1H), 2.11 (br s, 2H), 1.93 (m, 4H), 1.72 (s, 6H), 1.28 (s, 3H).

reactant | cis-(S)-2-({4-[5-chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexylamino}-methyl)-indan-5-carbonitrile | 0.054 mmol, 25 mg | ClC1=CC2=C(N(C(=N2)C(C)(C)O)[C@H]2CC[C@H](CC2)NC[C@H]2CC3=CC=C(C=C3C2)C#N)C=C1 | C27H31ClN4O
reactant | triethylamine | 0.108 mmol, 11 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.063 mmol, 5 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-(S)—N-{4-[5-chloro-2-(1-hydroxy-1-methyl-ethyl)-benzoimidazol-1-yl]-cyclohexyl}-N-(5-cyano-indan-2-ylmethyl)-acetamide | 15 mg | ClC1=CC2=C(N(C(=N2)C(C)(C)O)[C@H]2CC[C@H](CC2)N(C(C)=O)C[C@H]2CC3=CC=C(C=C3C2)C#N)C=C1 | C29H33ClN4O2
